US03978127
2-(α,α,β,β-Tetrafluorophenethyl)benzonitrile
A mixture of 3.33 g. (0.01 mole) of 2-bromo-α,α,α',α'-tetrafluorobibenzyl, 2.70 g. of cuprous cyanide, 30 ml. of dry quinoline, and 3 ml. of dry dimethylformamide are stirred and heated to refluxing for about 30 hours. After cooling and dilution with ether, the precipitate is removed by filtration and washed with ether. Solvents are evaporated from the filtrate under reduced pressure leaving the product as an oily brown solid. Purification is effected by column chromatography on 150 g. of silica, the product being eluted with benzene-hexane (3:1). The fractions which show one spot of rf 0.7 on a silica thin layer plate developed with benzene are combined. Evaporation of the solvents under reduced pressure leaves white crystals, m.p. 84°-86°C. A sample for analysis is sublimed at 55°C. and 0.05 mm; m.p. 85°-86°C.

reactant | 2-bromo-α,α,α',α'-tetrafluorobibenzyl | 0.01 mole | BrC1=C(C=CC=C1)C(C(C1=CC=CC=C1)(F)F)(F)F | C14H9BrF4
reactant | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-(α,α,β,β-Tetrafluorophenethyl)benzonitrile | FC(C(C1=CC=CC=C1)(F)F)(F)C1=C(C#N)C=CC=C1 | C15H9F4N
